US05846982
A mixture of 1.4 gm (3.1 mMol) 1-phenylsulfonyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)-1H-indole and 1.2 gm (6.2 mMol) p-toluenesulfonic acid in 30 mL toluene was heated at reflux for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate and 2N sodium hydroxide. The phases were separated and the organic phase washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 2% methanol in dichloromethane. Fractions shown to contain product were combined and concentrated under reduced pressure to provide 1.13 gm (84%) 1-phenylsulfonyl-2-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole as an off-white foam. A portion was converted to the title compound by treatment with oxalic acid.

reactant | 1-phenylsulfonyl-2-(1-benzyl-4-hydroxypiperidin-4-yl)-1H-indole | 3.1 mMol, 1.4 gm | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C1(CCN(CC1)CC1=CC=CC=C1)O | C26H26N2O3S
reactant | p-toluenesulfonic acid | 6.2 mMol, 1.2 gm | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenylsulfonyl-2-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.13 gm, 84% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC=CC=C12)C=1CCN(CC1)CC1=CC=CC=C1 | C26H24N2O2S
